US04439448
A mixture of 5.0 g (0.016 mole) of N-(4-ethoxycarbonylmethylphenyl)-L-glutamine in 100 ml of water and 200 ml of ethanol was heated until dissolution was completed and 10 ml of 21 wt. % hydrogen chloride-ethanol solution was added. The solvent was then distilled off in vacuo and the residue was taken up in ethanol. After treatment of the solution with activated charcoal, ether was added thereto for crystallization. The precipitated crystals were sucked off and dried in vacuo to give 2.6 g (0.0075 mole, 47% yield) of N-(4-ethoxycarbonylmethylphenyl)-L-glutamine hydrochloride, m.p. 154.8°-155.6° C.

reactant | N-(4-ethoxycarbonylmethylphenyl)-L-glutamine | 0.016 mole, 5.0 g | C(C)OC(=O)CC1=CC=C(C=C1)N[C@@H](CCC(N)=O)C(=O)O | C15H20N2O5
reactant | hydrogen chloride ethanol | Cl.C(C)O
solvent | water | 100 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-(4-ethoxycarbonylmethylphenyl)-L-glutamine hydrochloride | 0.0075 mole, 2.6 g, 47% yield | Cl.C(C)OC(=O)CC1=CC=C(C=C1)N[C@@H](CCC(N)=O)C(=O)O | InChI=1S/C15H20N2O5.ClH/c1-2-22-14(19)9-10-3-5-11(6-4-10)17-12(15(20)21)7-8-13(16)18;/h3-6,12,17H,2,7-9H2,1H3,(H2,16,18)(H,20,21);1H/t12-;/m0./s1
